US07241317B2
Step 1: Synthesis of 2-[4-(4-nitrophenyl)-[1,4]diazepan-1-yl]ethanol (1)
Fluoronitrobenzene (2.03 g, 14.4 mmol) is dissolved in water (10 ml), and then potassium carbonate (2.4 g, 17.3 mmol) and 1-(2-hydroxyethyl)-homopiperazine are added. The medium is heated at 95° C. for 4 hours and then cooled to room temperature and filtered. A dark orange-coloured powder is recovered which is placed in the oven (3.5 g, yield=91.7%).

reactant | Fluoronitrobenzene | 14.4 mmol, 2.03 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 17.3 mmol, 2.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(2-hydroxyethyl)-homopiperazine | OCCN1CCNCCC1 | C7H16N2O
solvent | water | 10 ml | O | H2O
product | 2-[4-(4-nitrophenyl)-[1,4]diazepan-1-yl]ethanol | yield=91.7% | [N+](=O)([O-])C1=CC=C(C=C1)N1CCN(CCC1)CCO | C13H19N3O3
